US08445501B2
4-(2-Cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-((S)-2-hydroxy-propionyl)piperidin-4-yl]-amide
Starting from 4-(2-cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide (example A155) and acetic acid (S)-1-chlorocarbonyl-ethyl ester the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide | N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)OC)OCC2CC2 | C23H27N5O3
reactant | acetic acid (S)-1-chlorocarbonyl-ethyl ester | ClC(=O)[C@H](C)OC(C)=O | C5H7ClO3
product | 4-(2-Cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-((S)-2-hydroxy-propionyl)piperidin-4-yl]-amide | O[C@H](C(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)OC)OCC2CC2)C | C26H31N5O5
